US04032544
(c) 2-Chloro-6,7-diethyl-1,4-naphthoquinone
A solution of 6,7-diethyl-2-hydroxy-1,4-naphthoquinone (22 g; 0.096 mole) in thionyl chloride (250 ml) was refluxed for 12 hours and the solvent removed in vacuo. Repeated evaporation with dry benzene gave an orange solid which after recrystallisation from ethanol in the presence of charcoal weighed 18.04 g (76%) and had m.p. 90°-92° C. (Found; C, 67.21; H, 5.39; Cl, 14.21; C14H13ClO2 requires; C, 67.61; H, 5.27; Cl, 14.26%).

reactant | 6,7-diethyl-2-hydroxy-1,4-naphthoquinone | 0.096 mole, 22 g | C(C)C=1C=C2C(C=C(C(C2=CC1CC)=O)O)=O | C14H14O3
reactant | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-6,7-diethyl-1,4-naphthoquinone | ClC=1C(C2=CC(=C(C=C2C(C1)=O)CC)CC)=O | C14H13ClO2
